US07101886B2
N-[5-CHLORO-4-(2-CHLORO-ETHYL)-2-METHYL-PHENYL]-ACETAMIDE
To a solution of N-[5-Chloro-4-(2-chloro-acetyl)-2-methyl-phenyl]-acetamide (10 g, 38.44 mmol) in trifluoroacetic acid (100 mL) at <20° C. was added portionwise, triethylsilane (15.35 mL, 96.1 mmol). The reaction was heated to 60° C. and stirred overnight. The reaction was cooled to rt and poured over ice/H2O and stirred for 30 min as a grey precipitate formed. The precipitate was collected by filtration and dried in vacuo overnight to give desired product (8.35 g, 33.92 mmol). Yield=88%; MS (APCI): 246 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.89 (s, 1H), 7.05 (s, 1H), 6.93 (bs, 1H, NH), 3.69 (t, J=7.26 Hz, 2H), 3.10 (t, J=7.26 Hz, 2H), 2.20 (d, J=4.48 Hz, 3H).

reactant | N-[5-Chloro-4-(2-chloro-acetyl)-2-methyl-phenyl]-acetamide | 38.44 mmol, 10 g | ClC=1C(=CC(=C(C1)NC(C)=O)C)C(CCl)=O | C11H11Cl2NO2
reactant | triethylsilane | 96.1 mmol, 15.35 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[5-CHLORO-4-(2-CHLORO-ETHYL)-2-METHYL-PHENYL]-ACETAMIDE | 33.92 mmol, 8.35 g, Yield=88% | ClC=1C(=CC(=C(C1)NC(C)=O)C)CCCl | C11H13Cl2NO
